US07199120B2
b) 1-[7-Chloro-2-(2-furyl)pyrazolo[1,5-a]pyridin-3-yl]-2-propyn-1-ol
To a solution of 7-chloro-2-(2-furyl)pyrazolo[1,5-a]pyridine-3-carbaldehyde (3.36 g, 13.6 mmol) in tetrahydrofuran (100 mL) at −78° C. was added ethynylmagnesium bromide (32.7 mL, 0.5 M in tetrahydrofuran, 16.3 mmol). The mixture was allowed to warm to room temperature and stirred for 1 hour. Water was added to the reaction and the resulting mixture was extracted with ethyl acetate. The ethyl acetate phase was dried over magnesium sulfate, filtered and concentrated to a solid residue, 1-[(7-chloro-2-(2-furyl)pyrazolo[1,5-a]pyridin-3-yl]-2-propyn-1-ol (3.63 g, 98%). 1H NMR (CDCl3): δ 7.98 (d, 1H), 7.59 (d, 1H), 7.16 (t, 1H), 7.03 (d, 1H), 6.95 (d, 1H), 6.55 (m, 1H), 6.16 (m, 1H), 2.76 (m, 1H), 2.63 (s, 1H). MS m/z 273 (M+1).

reactant | 7-chloro-2-(2-furyl)pyrazolo[1,5-a]pyridine-3-carbaldehyde | 13.6 mmol, 3.36 g | ClC1=CC=CC=2N1N=C(C2C=O)C=2OC=CC2 | C12H7ClN2O2
reactant | ethynylmagnesium bromide | 16.3 mmol, 0.5 M, 32.7 mL | C(#C)[Mg]Br
reactant | Water | O | H2O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 1-[7-Chloro-2-(2-furyl)pyrazolo[1,5-a]pyridin-3-yl]-2-propyn-1-ol | ClC1=CC=CC=2N1N=C(C2C(C#C)O)C=2OC=CC2 | C14H9ClN2O2
